US07291619B2
1-(2-cyclohexyl-phenyl]piperazine
The title compound was prepared in a manner similar to Preparation 1A except that piperazine was coupled to 1-bromo-2-cyclohexyl-benzene.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 1-bromo-2-cyclohexyl-benzene | BrC1=C(C=CC=C1)C1CCCCC1 | C12H15Br
product | 1-(2-cyclohexyl-phenyl]piperazine | C1(CCCCC1)C1=C(C=CC=C1)N1CCNCC1 | C16H24N2
